US07671066B2
Preparation of 3,4-Dimethoxy-benzoic acid, (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-vinyl ester (CHF 5405)
The compound was obtained starting from 3,5-dichloro-4-methyl-pyridine and 3,4-dimethoxy-benzoyl chloride, following the procedure of Example 31.

reactant | 3,5-dichloro-4-methyl-pyridine | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 3,4-dimethoxy-benzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
product | 3,4-Dimethoxy-benzoic acid, (Z)-2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)-vinyl ester | COC=1C=C(C(=O)O\C(=C/C2=C(C=NC=C2Cl)Cl)\C2=CC(=C(C=C2)OC)OC)C=CC1OC | C24H21Cl2NO6
